US06858630B2
3′,4′-dimethylbiphenyl-4-carbaldehyde
3-phenoxybenzaldehyde for 3,4-dimethylbiphenyl-3-carbaldehyde, the following compounds were generated:

reactant | 3-phenoxybenzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | 3,4-dimethylbiphenyl-3-carbaldehyde | CC1(CC(=CC=C1C)C1=CC=CC=C1)C=O | C15H16O
product | 3′,4′-dimethylbiphenyl-4-carbaldehyde | CC=1C=C(C=CC1C)C1=CC=C(C=C1)C=O | C15H14O
